US04999430
n Butyllithium, 0.033 mol, is added to a suspension of 6.5g (0.033 mol) of 1,2,3,4-tetra -hydro-9-acridinamine (Petrow, V., Journal of the Chemical Society, pages 634 to 637 (1947)) in 200 ml of tetrahydrofuran at 0° C. The mixture is stirred at 0° C. for 20 minutes, the cooling bath removed and 6.36 g (0.033 mol) of octyl chloroformate added and the solution stirred over the weekend. Water, 200 ml, is added and the mixture extracted with ethyl acetate. The ethyl acetate layer is separated and evaporated to afford a yellow oil. Chromatography (elution with isopropanol-chloroform (5:95)) affords 6.59 g of octyl (1,2,3,4-tetrahydro-9-acridinyl)carbamate, as a yelIow solid; mp 96-99° C.

reactant | Butyllithium | C(CCC)[Li]
reactant | 1,2,3,4-tetra -hydro-9-acridinamine | 0.033 mol, 6.5g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | octyl chloroformate | 0.033 mol, 6.36 g | ClC(=O)OCCCCCCCC | C9H17ClO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | octyl (1,2,3,4-tetrahydro-9-acridinyl)carbamate | 6.59 g | C1CCCC2=NC3=CC=CC=C3C(=C12)NC(OCCCCCCCC)=O | C22H30N2O2
